US05457133
Racemic N-propargyl-1-aminoindan hydrochloride
Racemic 1-aminoindan (10.0 g) and 10.4 g of potassium carbonate were added to 75 ml of acetonitrile. The resulting suspension was heated to 60° C. and 4.5 g of propargyl chloride were added dropwise.

reactant | Racemic 1-aminoindan | 10.0 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl chloride | 4.5 g | C(C#C)Cl | C3H3Cl
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | Racemic N-propargyl-1-aminoindan hydrochloride | Cl.C(C#C)NC1CCC2=CC=CC=C12 | InChI=1S/C12H13N.ClH/c1-2-9-13-12-8-7-10-5-3-4-6-11(10)12;/h1,3-6,12-13H,7-9H2;1H
